US05616581
The same reaction as in Example 1 was carried out using 2-hydroxymethyl-3-methyl-4-(2-(1,2,3,4-tetrahydroisoquinolin-2-yl)ethylthio)pyridine in place of 2-hydroxymethyl-3-methyl-4-(2-morpholinoethylthio)pyridine and 2-mercaptoimidazo[5,4-c]pyridine in place of 2-mercaptobenzimidazole to give 2-((3-methyl-4-(2-(1,2,3,4-tetrahydroisoquinolin-2-yl)ethylthio)-2-pyridyl)methylthio)imidazo[5,4-c]pyridine as crystals, melting point 215° C. (dec.).

reactant | 2-hydroxymethyl-3-methyl-4-(2-(1,2,3,4-tetrahydroisoquinolin-2-yl)ethylthio)pyridine | OCC1=NC=CC(=C1C)SCCN1CC2=CC=CC=C2CC1 | C18H22N2OS
reactant | 2-mercaptoimidazo[5,4-c]pyridine | SC1=NC=2C=NC=CC2N1 | C6H5N3S
product | 2-((3-methyl-4-(2-(1,2,3,4-tetrahydroisoquinolin-2-yl)ethylthio)-2-pyridyl)methylthio)imidazo[5,4-c]pyridine | CC=1C(=NC=CC1SCCN1CC2=CC=CC=C2CC1)CSC1=NC=2C=NC=CC2N1 | C24H25N5S2
